US07432284B2
A solution of crude 2-butyl-6-methoxy-2-(2-oxopropyl)-3,4-dihydro-1(2H)-naphthalenone (888 mg, ˜3 mmol) in EtOH (15 mL) was treated with freshly prepared 2N KOH in EtOH (1.5 mL, 3 mmol). The resulting solution was placed under a N2 atmosphere and heated at reflux for 17 hours. After cooling, the mixture was diluted with water (100 mL) and extracted with EtOAc (3×100 mL). The extracts were washed with brine, dried over MgSO4, filtered, and concentrated under vacuum. The residue was purified by Biotage™ (Charlottesville, Va.) flash chromatography on a 40S (4×7 cm) silica gel column, eluting with 1000 mL portions of 19:1 and 10:1 hexane-EtOAc. The product-containing fractions were evaporated under vacuum to provide 3a-butyl-7-methoxy-3,3a,4,5-tetrahydro-2H-cyclopenta[a]naphthalen-2-one as an oil.

reactant | 2-butyl-6-methoxy-2-(2-oxopropyl)-3,4-dihydro-1(2H)-naphthalenone | ˜3 mmol, 888 mg | C(CCC)C1(C(C2=CC=C(C=C2CC1)OC)=O)CC(C)=O | C18H24O3
reactant | KOH | 2N | [OH-].[K+]
solvent | EtOH | 15 mL | CCO | C2H6O
solvent | water | 100 mL | O | H2O
solvent | EtOH | 3 mmol, 1.5 mL | CCO | C2H6O
product | 3a-butyl-7-methoxy-3,3a,4,5-tetrahydro-2H-cyclopenta[a]naphthalen-2-one | C(CCC)C12C(C3=CC=C(C=C3CC1)OC)=CC(C2)=O | C18H22O2
